US07410991B2
Intermediate 13.2: 4-methylhept-1-en-3-one
To a solution of Intermediate 13.1 (700 mg, 5.5 mmol) in DCM (10 ml) was added Dess-Martin periodinane reagent (2.57 g, 6.6 mmol) and the solution was stirred at room temperature for 20 minutes. Ether (20 mL) was added to the mixture, and later 15 ml of 1.3 M NaOH solution was added. The mixture was stirred for an additional 10 minutes. After all the precipitate was dissolved into aqueous layer, the solution was extracted with ether (3×50 mL). The combined organic layer was washed with 1.3′ M NaOH solution, brine, dried, and concentrated to afford the title compound (500 mg) as colorless oil used in the next step without purification.

reactant | Dess-Martin periodinane | 6.6 mmol, 2.57 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Ether | 20 mL | CCOCC | C4H10O
reactant | NaOH | 1.3 M, 15 ml | [OH-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-methylhept-1-en-3-one | 500 mg | CC(C(C=C)=O)CCC | C8H14O
